US06730700B2
Synthesis of 4-(n-Butylaminocarbonyloxy)-3,5-di-tert-butylbenzaldehyde
The title compound was prepared in DMF using 3,5-di-tert-butyl-4-hydroxybenzaldehyde and n-butyl isocyanate according to the procedure described in Example H. The title compound was isolated in 87.5% yield as a buff solid.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(n-Butylaminocarbonyloxy)-3,5-di-tert-butylbenzaldehyde | C(CCC)NC(=O)OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C20H31NO3
